Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
1. Stage IV colon carcinoma, status post resection of
    terminal ileum and right colon and formation of end
    ileostomy.
2. Large parastomal hernia
 
Major Surgical or Invasive Procedure:
Takedown of ileostomy with ileotransverse colostomy.

 
History of Present Illness:
Mr. ___ is a ___ male who underwent a resection of 
his terminal ileum, cecum, and portion of his ascending colon 
for a perforated cecal
carcinoma with widespread liver metastases.in ___. Mr. 
___ was treated at ___ for followup chemotherapy.  
He developed a large parastomal hernia He has had a response in 
his liver with some mild abnormalities, which persists.  He, 
however, has had some metastatic nodules in the lung, which show 
actually mild increase in tumor burden since his last CT scan, 
this one being
dated ___.  The lesions in his liver are markedly 
decreased. Mr.
___, as a result of the oxaliplatin, has renal failure, 
which
has required dialysis.  
 
Past Medical History:
Path at ___: mod differentiated sclerosing adenocarcinoma
 
Social History:
___
Family History:
Non-contributory

 
Physical Exam:
Afebrile, VSS
Alert, oriented x 3, NAD
RRR
CTAB
Abdomen soft, appropriately mildly tender, staples in place
___ warm, no edema
 

 
Pertinent Results:
___ 10:04AM   CALCIUM-9.0 PHOSPHATE-3.5 MAGNESIUM-1.8
___ 10:04AM   GLUCOSE-108* UREA N-23* CREAT-3.4* SODIUM-139 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-28 ANION GAP-13

 
Brief Hospital Course:
Mr. ___ was admitted to the surgical service after a takedown 
of ileostomy with ileotransverse colostomy. For details of the 
surgery, see Dr. ___ report. Postoperatively he 
did well. His diet was advanced slowly and was tolerating an 
adequate renal diet by POD 5.  His pain was managed with 
oxycodone and tylenol and he was discharged with a PO 
prescription for both.  He had some low-grade fevers during his 
hospital stay.  He was started on Kefzol for some erythema 
around his incision site.  A blood culture was done which was 4 
days negative on discharge.  His dialysis catheter was removed 
and he was instructed to follow-up with Dr. ___ any fever 
over ___.  He did experience some heartburn which did not 
resolve with omperazole (which he normally takes at home.)  A 
nighttime dose of famotidine was added, which resolved his 
symptoms.  He was ambulating and ready for discharge on POD 5.

 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for fever; pain.
Disp:*80 Tablet(s)* Refills:*0*
2. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
3. Oxycodone 5 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
4. Calcium Acetate 667 mg Capsule Sig: One (1) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
5. Simethicone 80 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO QID (4 times a day) as needed for gas pain.
Disp:*30 Tablet, Chewable(s)* Refills:*0*
6. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day as needed for 
heartburn.
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
7. Famotidine 20 mg Tablet Sig: 0.5 Tablet PO QHS (once a day 
(at bedtime)).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Stage IV colon carcinoma, status post resection of
    terminal ileum and right colon and formation of end
    ileostomy.
2. Large parastomal hernia.

 
Discharge Condition:
Hemodynamicly stable, pain adequately controlled, tolerating 
diet.
 
Discharge Instructions:
Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or
back.
*Avoid lifting objects > 5lbs until your follow-up appointment 
with the surgeon.
*Avoid driving or operating heavy machinery while taking pain 
medications.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
* Please resume all regular home medications and take any new 
meds as ordered. 
* Continue to ambulate several times per day.

Incision Care:
-Your staples will be removed when you follow-up with Dr. ___ may shower, and wash surgical incisions.
-Avoid swimming and baths until your follow-up appointment.
-Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.

 

 
Followup Instructions:
___